US07420001B2
To a round-bottom flask with stir bar was added 4-hydroxy-3-methyl-benzofuran-2 carboxylic acid t-butyl ester (1 mmole), methyl 2-bromoacetate (1.1 eq.) potassium carbonate (5 equiv.) and 10 mL of DMF. The reaction mixture was stirred overnight and then slowly added dropwise to water (10 mL) with stirring. The resulting mixture was extracted with ethyl acetate (2×20 mL), brine (20 mL), dried over magenesium sulfate. Filtration and evaporation of solvent gave 4-methoxycarbonylmethoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as a thick oil in 92% yield.

reactant | 4-hydroxy-3-methyl-benzofuran-2 carboxylic acid t-butyl ester | 1 mmole | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C14H16O4
reactant | methyl 2-bromoacetate | 1.1 eq. | BrCC(=O)OC | C3H5BrO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 4-methoxycarbonylmethoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 92% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC(=O)OC | C17H20O6
